US07338958B2
e) Production of (RS)-S-(3-aminophenyl)-S-methyl-N-nitrosulfoximide
A solution of 100 mg (0.41 mmol) of (RS)-S-methyl-N-nitro-S-(3-nitrophenyl)sulfoximide in 8 ml of THF is mixed at room temperature with 3.1 ml of an approximately 10% solution of Ti(III)Cl in 20-30% hydrochloric acid. After 1 hour, another 1.0 ml of the approximately 10% solution of Ti(III)Cl in 20-30% hydrochloric acid is added, and it is stirred for another 45 minutes at room temperature. The batch is made basic with 1N NaOH solution and extracted with ethyl acetate. The combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. The residue that is obtained is purified by chromatography (DCM/EtOH 95:5). 40 mg (0.19 mmol, corresponding to 45% of theory) of the product is obtained.

reactant | (RS)-S-methyl-N-nitro-S-(3-nitrophenyl)sulfoximide | 0.41 mmol, 100 mg | CS(=O)(=N[N+](=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-] | C7H7N3O5S
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | (RS)-S-(3-aminophenyl)-S-methyl-N-nitrosulfoximide | NC=1C=C(C=CC1)S(=O)(=N[N+](=O)[O-])C | C7H9N3O3S
